2118-09-03 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tachycardic into 180s last night. 5mg IV lopressor x2, then 5mg IV dilt
   x2, then started Dilt drip.  HR in 110s.  BP marginal overnight, given
   multiple 250cc boluses, MAPs 50s-60s.
 PICC LINE - START [**2118-9-2**] 10:28 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2118-9-2**] 11:27 PM
   Diltiazem - [**2118-9-3**] 01:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 107 (86 - 182) bpm
   BP: 103/59(68) {63/34(46) - 121/63(80)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                    719 mL
                                                                    674 mL
   PO:
             TF:
   IVF:
                                                                    719 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                     70 mL
                                                                    515 mL
   Urine:
                                                                     70 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    649 mL
                                                                    159 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   9.3 g/dL
   139 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   25.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2118-9-1**]  09:53 AM
                             [**2118-9-2**]  12:00 AM
                             [**2118-9-2**]  03:24 PM
                             [**2118-9-2**]  09:52 PM
                             [**2118-9-3**]  05:00 AM
                             [**2118-9-3**]  06:16 AM
   WBC
   5.2
   6.9
   5.1
   5.3
   Hct
   30.3
   33.8
   25.5
   25.6
   Plt
   85
   64
   42
   40
   Cr
   0.5
   0.6
   0.5
   0.4
   0.5
   Glucose
   150
   150
   152
   150
   139
   Other labs: PT / PTT / INR:12.9/24.1/1.1, ALT / AST:17/17, Alk Phos / T
   Bili:46/1.0, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 60 y.o. F with h/o mantle cell lymphoma s/p multiple
   chemotherapy regimens admitted for episode of acute respiratory
   distress which was attributed to a mucous plug, then found to have
   bilateral pleural effusions and pericardial effusion with cardiac
   tamponade physiology s/p multiple thoracenteses and pericardial drain.
   Also with persistent tachycardia.
   # Tachycardia: Sinus rhythm although this AM, reported HR in 180s that
   responded to metoprolol.  Unsure if SVT and the underlying rhythm. The
   patient was fluid challenged in the CCU and did not respond
   appropriately.  CTA negative for PE.  [**Month (only) 60**] be due to continued dyspnea
   and tachypnea [**2-5**] bilateral pleural effusions vs. component of pain vs.
   malignancy-driven response vs. cardiac tamponade. Recent TSH in [**7-/2118**]
   was 2.0.  Was given 5mg IV metop x2, then dilt 5mgx2 then started on
   Dilt drip, now with HR 110s.
   - monitor on telemetry
   - hold beta blocker [**2-5**] hypotension as below
   - adequate pain control
   # Dyspnea: Likely secondary to bilateral pleural effusions that are
   rapidly accumulating [**2-5**] malignancy.  s/p R thoracentesis today and has
   had some relief.  Less likely [**2-5**] PE as recent CTA was negative.
   - daily CXR
   - monitor O2 sat
   - maintain HOB > 30 degrees
   - maintain aspiration precautions
   - continue albuterol nebs q6 hours
   - appreciate IP recs: will reassess R pleural effusion with possibility
   of placing pleurax catheter if continues to rapidly accumulate
   - monitor pleurax drainage
   .
   # Pericardial effusion: s/p pericardial drain that was removed today.
   Repeat echo showed small to moderate pericardial effusion on [**2118-9-1**].
   No pulsus today on exam per CCU.  Pericardial fluid + for malignant
   cells.
   - monitor on telemetry
   - monitor pulsus closely
   - check pulsus now with dopplers
   - repeat echo for Tuesday per cardiology
   - if pt with persistant pericardial effusion, would consider
   pericardial window
   - f/u lyme serology (although less likely considering cytology c/w
   lymphoma)
   .
   # Tachycardia: Sinus rhythm although this AM, reported HR in 180s that
   responded to metoprolol.  Unsure if SVT and the underlying rhythm. The
   patient was fluid challenged in the CCU and did not respond
   appropriately.  CTA negative for PE.  [**Month (only) 60**] be due to continued dyspnea
   and tachypnea [**2-5**] bilateral pleural effusions vs. component of pain vs.
   malignancy-driven response vs. cardiac tamponade. Recent TSH in [**7-/2118**]
   was 2.0.
   - monitor on telemetry
   - hold beta blocker [**2-5**] hypotension as below
   - adequate pain control
   .
   # Hypotension: SBP usually in 90s per CCU.  On arrival pt SBP in 80s.
   [**Month (only) 60**] be [**2-5**] metoprolol dose that was given prior to arrival and started
   today.  Consider cardiac tamponade as pt with hypotension and
   tachycardia.  Echo yesterday showed resolution of tamponade.
   - small fluid bolus of 250 cc now
   - bolus for UOP>30 cc/hour
   - check pulsus with dopplers now
   .
   # Mantle Cell Lymphoma: Patient was diagnosed with mantle cell lymphoma
   in [**2114**].  She had one episode of radiation of an anterior mediastinal
   mass during this hospitaliztion. Long-range plan is for allogeneic SCT
   from sib donor with TLI, ATG.
   - appreciate rad-onc recs. Pt likely to resume radiation therapy on
   Tuesday with 2 more sessions.
   - appreciate BMT recs
   - continue ACV ppx
   - will need to talk with patient about goals of care with BMT team (pt
   may not be aware of malignant cells in pericardial/pleural effusions)
   .
   # Nausea: Continue prn prochlorperazine, lorazepam
   .
   # Hypercholesterolemia: Continue atorvastatin
   .
   # FEN: No IVFs / oncology electrolye replacement scales / soft
   dysphagia diet with thin liquids as per speech and swallow recs
   .
   # ACCESS: PIV and PICC
   .
   # PPX: PPI, bowel regimen, pneumoboots
   .
   # COMM: with patient
   .
   # CODE: Full (confirmed with patient)
   .
   # DISPO: ICU care pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-9-2**] 09:57 PM
   PICC Line - [**2118-9-2**] 10:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-09-03 11:12:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female with mantle cell lymphoma s/p multiple rounds of
   chemo. Adm [**8-29**] to BMT with SOB from mucous plug. Had thoracentesis
   subs.found to have pericardial effusion drained [**8-31**] cath. +malignant
   cells.
   In CCU she kept re-accumulating fluid: repeat thoracentesis with left
   pleurex catheter. another thoracentesis yesterday on R side.
   Pericardial drain dc'd yesterday after minimal outpt over 24 hours
   TEE: small-moderate pericardial effusion
   Has been persistently tachycardic unchanged with fluid boluses
   Started on metoprolol
   Negative CTA
   24 Hour Events:
 PICC LINE - START [**2118-9-2**] 10:28 PM
   History obtained from [**Hospital 85**] Medical records, ICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2118-9-2**] 11:27 PM
   Diltiazem - [**2118-9-3**] 01:53 AM
   Other medications:
   allopurinol, pantoprazole, dilt gtt, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-3**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 114 (86 - 182) bpm
   BP: 123/77(85) {63/34(46) - 123/77(85)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                    719 mL
                                                                    753 mL
   PO:
             TF:
   IVF:
                                                                    719 mL
                                                                    753 mL
   Blood products:
   Total out:
                                                                     70 mL
                                                                    595 mL
   Urine:
                                                                     70 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    649 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic), mildly tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : ,
   Rhonchorous: ), Left pleurovac, r band-aid
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.3 g/dL
   40 K/uL
   139 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   25.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2118-9-1**]  09:53 AM
                             [**2118-9-2**]  12:00 AM
                             [**2118-9-2**]  03:24 PM
                             [**2118-9-2**]  09:52 PM
                             [**2118-9-3**]  05:00 AM
                             [**2118-9-3**]  06:16 AM
   WBC
   5.2
   6.9
   5.1
   5.3
   Hct
   30.3
   33.8
   25.5
   25.6
   Plt
   85
   64
   42
   40
   Cr
   0.5
   0.6
   0.5
   0.4
   0.5
   Glucose
   150
   150
   152
   150
   139
   Other labs: PT / PTT / INR:12.9/24.1/1.1, ALT / AST:17/17, Alk Phos / T
   Bili:46/1.0, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 year old female with mantle cell lymphoma now with
   pericardial/pleural involvement; in [**Hospital Unit Name 44**] with tachycardia
   Anemia: Acute Hct drop recently without obvious source. BP currently
   reasonable
     guiac stools, serial hcts, check hemolysis labs
   Tachycardia: improved this am, but remains on continuous IV infusion
   dilt drip
     attempt transition to short-acting oral meds, wean dilt drip off as
   able
   Mantle cell lymphoma: Onc team to address w/pt, including consideration
   of salvage chemo
     Has pericardial effusion- cards following.
   Thrombocytopenia: slight drop recently. [**Month (only) 60**] need plt transfusion if hct
   drop due to bleeding
   Other details of plan as per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-9-2**] 09:57 PM
   PICC Line - [**2118-9-2**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-09-04 08:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Hypotensive during sleep, easily arousable.  Pulsus remains around 10.
   D/C
d dilt gtt, tried on 30po dilt q6h but pt. became tachy to 170s.
   Restarted dilt gtt and HR 90s-110s, with some aflutter, in NSR this AM.
   Gemcitabine yesterday.  No more XRT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-4**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.4
C (97.6
   HR: 96 (94 - 157) bpm
   BP: 90/60(68) {80/52(57) - 123/79(85)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,215 mL
                                                                    873 mL
   PO:
                                                                    150 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,065 mL
                                                                     91 mL
   Blood products:
   632 mL
   Total out:
                                                                  1,145 mL
                                                                    410 mL
   Urine:
                                                                  1,145 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   9.5 g/dL
   194 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   133 mEq/L
   26.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2118-9-1**]  09:53 AM
                             [**2118-9-2**]  12:00 AM
                             [**2118-9-2**]  03:24 PM
                             [**2118-9-2**]  09:52 PM
                             [**2118-9-3**]  05:00 AM
                             [**2118-9-3**]  06:16 AM
                             [**2118-9-3**]  08:15 PM
                             [**2118-9-4**]  04:45 AM
   WBC
   5.2
   6.9
   5.1
   5.3
   6.4
   7.2
   Hct
   30.3
   33.8
   25.5
   25.6
   25.4
   26.3
   Plt
   85
   64
   42
   40
   36
   87
   Cr
   0.5
   0.6
   0.5
   0.4
   0.5
   0.4
   0.4
   Glucose
   150
   150
   152
   150
   139
   191
   194
   Other labs: PT / PTT / INR:12.3/24.9/1.0, ALT / AST:17/17, Alk Phos / T
   Bili:46/0.6, LDH:456 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 60 y.o. F with h/o mantle cell lymphoma s/p multiple
   chemotherapy regimens admitted for episode of acute respiratory
   distress which was attributed to a mucous plug, then found to have
   bilateral pleural effusions and pericardial effusion with cardiac
   tamponade physiology s/p multiple thoracenteses and pericardial drain.
   Also with persistent tachycardia.
   # Tachycardia: Sinus rhythm although this AM, reported HR in 180s that
   responded to metoprolol.  Unsure if SVT and the underlying rhythm. The
   patient was fluid challenged in the CCU and did not respond
   appropriately.  CTA negative for PE. Most likely SVT or a flutter [**2-5**]
   nodal irritability with malignant pericardial effusion.  Recent TSH in
   [**7-/2118**] was 2.0.  Was given 5mg IV metop x2, then dilt 5mgx2 then
   started on Dilt drip, now with HR 110s.
   - monitor on telemetry
   -convert dilt drip to po dilt
   - hold beta blocker [**2-5**] hypotension as below
   - adequate pain control
   # Dyspnea: Likely secondary to bilateral pleural effusions that are
   rapidly accumulating [**2-5**] malignancy.  s/p R thoracentesis today and has
   had some relief.  Less likely [**2-5**] PE as recent CTA was negative.
   - daily CXR
   - monitor O2 sat
   - maintain HOB > 30 degrees
   - maintain aspiration precautions
   - continue albuterol nebs q6 hours
   - appreciate IP recs: will reassess R pleural effusion with possibility
   of placing pleurax catheter if continues to rapidly accumulate
   - monitor pleurax drainage
   #Anemia: Baseline HCT 29-30s.  Now 25.5.  Would be concerning for
   bleeding into pericardium if pt. hemodynamically unstable or if
   increasing signs of [**Month/Day (2) 4909**].
   -recheck stat HCT.
   -transfuse for HCT<25 or hd instability.
   -send Hemolysis labs
   #Thrombocytopenia: Chronic, but dropping.  Given her possible bleed
   (HCT drop) and suppression with chemo (gemcitabine) will monitor
   closely and try to transfuse platelets to >50.
   -PM Platelets, transfuse if <50
   # Pericardial effusion: s/p pericardial drain that was removed
   yesterday.  Repeat echo showed small to moderate pericardial effusion
   on [**2118-9-1**].  No pulsus today on exam.  Pericardial fluid + for
   malignant cells.
   - monitor on telemetry
   - monitor pulsus q6h with doppler
   - given HCT drop and risk for [**Last Name (LF) 4909**], [**First Name3 (LF) 178**] c/s cardiology and
   consider echo today.
   - repeat echo for Tuesday per cardiology, if pt with persistant
   pericardial effusion, would consider pericardial window
   - f/u lyme serology (although less likely considering cytology c/w
   lymphoma)
   # Hypotension: SBP usually in 90s per CCU.  On arrival pt SBP in 80s.
   [**Month (only) 60**] be [**2-5**] metoprolol dose that was given prior to arrival and started
   today.  Consider cardiac tamponade as pt with hypotension and
   tachycardia.  Echo yesterday showed resolution of tamponade.
   - continue gentle fluid resucitation to keep MAP >65
   - bolus for UOP>30 cc/hour
   # Mantle Cell Lymphoma: Patient was diagnosed with mantle cell lymphoma
   in [**2114**].  She had one episode of radiation of an anterior mediastinal
   mass during this hospitaliztion. Long-range plan was for allogeneic SCT
   from sib donor with TLI, ATG. But given extent of disease and malignant
   effusion, BMT may change goals.
   - f/u BMT recs
   - f/u rad onc recs
   - continue ACV ppx
   - will need to talk with patient about goals of care with BMT team (pt
   may not be aware of malignant cells in pericardial/pleural effusions)
   .
   # Nausea: Continue prn prochlorperazine, lorazepam
   .
   # Hypercholesterolemia: Continue atorvastatin
   .
   # FEN: oncology electrolye replacement scales / soft dysphagia diet
   with thin liquids as per speech and swallow recs
   .
   # ACCESS: PIV and PICC
   .
   # PPX: PPI, bowel regimen, pneumoboots (plt<50 so no heparin)
   .
   # COMM: with patient
   .
   # CODE: Full (confirmed with patient)
   .
   # DISPO: ICU care pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-9-2**] 10:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-09-04 09:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female with mantle cell lymphoma with recent dx of
   malignant pericardial/pleural effusions
   24 Hour Events:
   *attempts to wean dilt gtt but P increased to 130-170's- rhythm
   appeared aflutter; previously had been SVT
   *Gemcytobine
   *1 unit blood
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   allopurinol, acylovir, PPI, docusate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-4**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98
   HR: 89 (89 - 157) bpm
   BP: 95/63(70) {80/49(57) - 123/79(85)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,215 mL
                                                                    877 mL
   PO:
                                                                    150 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,065 mL
                                                                     95 mL
   Blood products:
   632 mL
   Total out:
                                                                  1,145 mL
                                                                    700 mL
   Urine:
                                                                  1,145 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: left pleurex catheter
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.5 g/dL
   87 K/uL
   194 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   133 mEq/L
   26.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2118-9-1**]  09:53 AM
                             [**2118-9-2**]  12:00 AM
                             [**2118-9-2**]  03:24 PM
                             [**2118-9-2**]  09:52 PM
                             [**2118-9-3**]  05:00 AM
                             [**2118-9-3**]  06:16 AM
                             [**2118-9-3**]  08:15 PM
                             [**2118-9-4**]  04:45 AM
   WBC
   5.2
   6.9
   5.1
   5.3
   6.4
   7.2
   Hct
   30.3
   33.8
   25.5
   25.6
   25.4
   26.3
   Plt
   85
   64
   42
   40
   36
   87
   Cr
   0.5
   0.6
   0.5
   0.4
   0.5
   0.4
   0.4
   Glucose
   150
   150
   152
   150
   139
   191
   194
   Other labs: PT / PTT / INR:12.3/24.9/1.0, ALT / AST:17/17, Alk Phos / T
   Bili:46/0.6, LDH:456 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Imaging: CXR: pleural effusions
   Assessment and Plan
   60 year old female with mantle cell lymphoma with malignant
   pleural/pericardial effusions
   *SVT vs Aflutter: did not tolerate attempt to dc dilt gtt- will attempt
   again today but increase po dilt to 60 mg q 6h. replete Mg>2, K>2
   *Pleural effusions: Has Left pleurex catheter, Right effusion not
   significantly changed on today's films. No change in management
   *Pericardial effusion: repeat Echo on Tuesday. Pulsus, continue close
   monitoring
   *Mantle cell lymphoma: Pt informed of px yesterday and started
   gemcytobine for salvage chemo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-9-2**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2118-09-05 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday weaned off Dilt drip and started on PO dilt.  HR remained
   stable 90s-110s.
   Concern that pulsus was increasing [**10-19**], bedside echo showed no
   evidence for tamponade or acute change in pericardial effusions.
   HCT stable, PLT count rising.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-5**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 98 (89 - 115) bpm
   BP: 96/55(63) {79/50(58) - 123/87(90)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,530 mL
                  PO:
                                                                    650 mL
                  TF:
   IVF:
                                                                    248 mL
   Blood products:
                                                                    632 mL
   Total out:
                                                                  1,620 mL
                                                                  1,200 mL
   Urine:
                                                                  1,620 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   9.2 g/dL
   118 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.0 mEq/L
   10 mg/dL
   100 mEq/L
   137 mEq/L
   25.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2118-9-1**]  09:53 AM
                             [**2118-9-2**]  12:00 AM
                             [**2118-9-2**]  03:24 PM
                             [**2118-9-2**]  09:52 PM
                             [**2118-9-3**]  05:00 AM
                             [**2118-9-3**]  06:16 AM
                             [**2118-9-3**]  08:15 PM
                             [**2118-9-4**]  04:45 AM
                             [**2118-9-4**]  06:00 PM
                             [**2118-9-5**]  05:33 AM
   WBC
   5.2
   6.9
   5.1
   5.3
   6.4
   7.2
   7.9
   6.4
   Hct
   30.3
   33.8
   25.5
   25.6
   25.4
   26.3
   27.3
   25.8
   Plt
   85
   64
   42
   40
   36
   87
   95
   73
   Cr
   0.5
   0.6
   0.5
   0.4
   0.5
   0.4
   0.4
   0.3
   Glucose
   150
   150
   152
   150
   139
   191
   194
   118
   Other labs: PT / PTT / INR:12.3/24.9/1.0, ALT / AST:17/17, Alk Phos / T
   Bili:46/0.6, LDH:456 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 60 y.o. F with h/o mantle cell lymphoma s/p multiple
   chemotherapy regimens admitted for episode of acute respiratory
   distress which was attributed to a mucous plug, then found to have
   bilateral pleural effusions and pericardial effusion with cardiac
   tamponade physiology s/p multiple thoracenteses and pericardial drain.
   In the ICU for persistent tachycardia.
   # Tachycardia: The patient was fluid challenged in the CCU and did not
   respond appropriately.  CTA negative for PE. Most likely SVT or atrial
   flutter [**2-5**] nodal irritability with malignant pericardial effusion.
   Yesterday, weaned from dilt drip and stable on PO dilt
   - monitor on telemetry
   - Continue PO dilt 60mg q6h
   - hold beta blocker [**2-5**] hypotension
   - adequate pain control
   # Dyspnea: Improved, with little 02 requirement.  Underlying cause
   bilateral pleural effusions that are rapidly accumulating [**2-5**]
   malignancy.  S/p R thoracentesis with relief.  Recent CTA was
   negative.
   - daily CXR
   - monitor O2 sat, supplemental 02 for O2 <90%
   - maintain HOB > 30 degrees
   - maintain aspiration precautions
   - continue albuterol nebs q6 hours
   - R pleural effusion possibly enlarged on CXR this morning, but not
   rapidly accumulating.
   - monitor pleurax drainage
   #Anemia:  Baseline HCT 29-30s.  Currently stable 26-27.  Would be
   concerning for bleeding into pericardium if pt. hemodynamically
   unstable or if increasing signs of tapenade, but now stable.  Hemolysis
   labs negative. HCT drop today is likely dilutional/lab variation as all
   her counts went down.
   -HCT [**Hospital1 **]
   -transfuse for HCT<25 or hd instability.
   #Thrombocytopenia: Chronic, now improving since Gemcitabine treatment.
   If any signs of bleeding or other end organ [**Last Name (LF) 4937**], [**First Name3 (LF) 178**] transfuse
   platelets to >50 otherwise will monitor.
   -Check PLT [**Hospital1 **]
   # Pericardial effusion: s/p pericardial drain that was removed Friday.
   On exam overnight, pulsus increasing to [**10-19**].  Bedside Echo did not
   show evidence of tamponade or acute change.  No hemodynamic change.
   - monitor on telemetry
   - monitor pulsus [**Hospital1 **] with doppler.
   - Patient unlikely to need pericardial window as effusions seem
   stable.  But will monitor closely for signs of tampenade
   -ECHO ordered for tomorrow per cardiology
   -lyme serologies show previous disease.
   # Hypotension: SBP usually in 90s per CCU.  On arrival pt SBP in 80s.
   [**Month (only) 60**] be [**2-5**] metoprolol dose that was given prior to arrival and started
   today.  Will tolerate MAP 60 at night if asymptomatic.
   - continue gentle fluid resucitation to keep MAP >65 (or >58 overnight)
   - bolus for UOP>30 cc/hour
   # Mantle Cell Lymphoma: Patient was diagnosed with mantle cell lymphoma
   in [**2114**].  She had one episode of radiation of an anterior mediastinal
   mass during this hospitaliztion. Long-range plan was for allogeneic SCT
   from sib donor with TLI, ATG. But given extent of disease and malignant
   effusion, XRT was stopped.
   - f/u BMT recs
   - continue ACV ppx
   # Nausea: Continue prn prochlorperazine, lorazepam
   # Hypercholesterolemia: Continue atorvastatin
   # FEN: oncology electrolye replacement scales / soft dysphagia diet
   with thin liquids as per speech and swallow recs
   # ACCESS: PIV and PICC
   # PPX: PPI, bowel regimen, pneumoboots (given thrombocytopenia)
   # COMM: with patient
   # CODE: Full (confirmed with patient)
   # DISPO:If stable on PO dilt, can be transferred back to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-9-2**] 10:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-09-05 10:08:00 Physician Attending Progress Note
Chief Complaint: tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female with mantle cell lymphoma with pericardial/pleural
   malignant effusions on gemcytopbine salvage chemo. In ICU for SVT
   24 Hour Events:
 EKG - At 08/31/200
   Weaned off dilt gtt
   Bedside echo done for concern of pulsus: showed small unchanged
   pericardial effusion with no tamponade physiology
   8 10:58 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   allopurinol, pantoprazole, dilt, acyclovir, nystatin prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-5**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 108 (97 - 115) bpm
   BP: 90/62(69) {79/49(57) - 123/87(90)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,530 mL
                                                                    530 mL
   PO:
                                                                    650 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    248 mL
                                                                     50 mL
   Blood products:
                                                                    632 mL
   Total out:
                                                                  1,620 mL
                                                                  1,555 mL
   Urine:
                                                                  1,620 mL
                                                                  1,555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                 -1,025 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right base, Diminished: both bases), left PleurX catheter
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   73 K/uL
   118 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.0 mEq/L
   10 mg/dL
   100 mEq/L
   137 mEq/L
   25.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2118-9-1**]  09:53 AM
                             [**2118-9-2**]  12:00 AM
                             [**2118-9-2**]  03:24 PM
                             [**2118-9-2**]  09:52 PM
                             [**2118-9-3**]  05:00 AM
                             [**2118-9-3**]  06:16 AM
                             [**2118-9-3**]  08:15 PM
                             [**2118-9-4**]  04:45 AM
                             [**2118-9-4**]  06:00 PM
                             [**2118-9-5**]  05:33 AM
   WBC
   5.2
   6.9
   5.1
   5.3
   6.4
   7.2
   7.9
   6.4
   Hct
   30.3
   33.8
   25.5
   25.6
   25.4
   26.3
   27.3
   25.8
   Plt
   85
   64
   42
   40
   36
   87
   95
   73
   Cr
   0.5
   0.6
   0.5
   0.4
   0.5
   0.4
   0.4
   0.3
   Glucose
   150
   150
   152
   150
   139
   191
   194
   118
   Other labs: PT / PTT / INR:12.3/24.9/1.0, ALT / AST:17/17, Alk Phos / T
   Bili:46/0.6, LDH:456 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Imaging: Still with small bil effusions, slightly larger on Right
   Assessment and Plan
   60 year old female with mantle cell lymphoma with malignant pericardial
   and pleural effusions
   1. Tachycardia: improved, on po dilt
   2. Pericardial effusions: no tamponade physiology by recent
   measurements. To get repeat echo tomorrow.
   3. Pleural effusion: has pleurex catheter on left. Repeat CXR in am to
   evaluate for interval change in size of R effusion
   4. Mantle cell lymphoma: received gemcytobine [**9-3**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-9-2**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: